US04973721
109 mg of (22S)-1α,3β-diacetoxy-25-tetrahydropyranyloxy-cholest-5-en-23-yn-22-ol (IIIa1) was dissolved in a mixture of methanol and tetrahydrofuran, and after adding thereto 3 drops of 2N-hydrochloric acid, the mixture was stirred for 3 hours at room temperature. The reaction solution was diluted with ethyl acetate, and washed with saturated aqueous sodium hydrogen carbonate and water, successively. After drying with magnesium sulfate, the solvent was distilled away. The residue obtained was dissolved in 10 ml of ethyl acetate, and after adding thereto 10 mg of 10% Pd-C, the mixture was stirred for 4 hours at room temperature under an hydrogen stream atmosphere. The catalyst was filtered off, and the mixture was washed with ethyl acetate, and a combined solution of filtrate and washing was concentrated under reduced pressure. The residue was dissolved in 0.5 ml of pyridine, and after adding thereto 0.1 ml of acetic anhydride, the mixture was stirred overnight at room temperature. After adding water to the reaction solution, the mixture was extracted with ethyl acetate. The extract organic layer was washed with 2N-hydrochloric acid, satureated aqueous sodium hydrogen carbonate, and water, successively, and dried over magnesium sulfate. The solvent was distilled away, and the residue was subjected to column chromatography (n-hexane-ethyl acetate=4:1) for purification to give 71.6 mg of (22R)-1α,3β,22-triacetoxycholest-5-en-25-ol (IVa1).

reactant | (22S)-1α,3β-diacetoxy-25-tetrahydropyranyloxy-cholest-5-en-23-yn-22-ol | 109 mg | C(C)(=O)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H]([C@@H](C#CC(C)(C)OC5OCCCC5)O)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C36H54O7
reactant | hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd-C | 10 mg | [Pd] | Pd
product | (22R)-1α,3β,22-triacetoxycholest-5-en-25-ol | 71.6 mg | C(C)(=O)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H]([C@@H](CCC(C)(C)O)OC(C)=O)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C33H52O7
